2103-12-03 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with oxygenation requirement.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2103-12-2**] 05:53 PM
   Cefipime - [**2103-12-2**] 08:42 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2103-12-3**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2103-12-3**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-12-3**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 77 (77 - 101) bpm
   BP: 137/65(79) {112/51(68) - 167/72(98)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,490 mL
                                                                    222 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    370 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,390 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.46/46/107/33/7
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   266 K/uL
   65 mg/dL
   9.6 mg/dL
   33 mEq/L
   5.5 mEq/L
   78 mg/dL
   95 mEq/L
   141 mEq/L
   34.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2103-12-2**]  06:24 PM
                             [**2103-12-3**]  03:45 AM
   WBC
   12.5
   Hct
   34.9
   Plt
   266
   Cr
   9.6
   TCO2
   34
   Glucose
   65
   Other labs: PT / PTT / INR:13.2/32.8/1.1, Lactic Acid:1.1 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
    I saw and examined Mr. [**Known lastname 10720**] with the ICU team.  Dr. [**Last Name (STitle) 6796**]
   note from today reflects my input.  [**Age over 90 382**] year-old man with complex past
   history now presents with fever, hypoxemia, respiratory distress, and
   radiographic infiltrates.  PMH esp notable for ESRD on HD, prior hx of
   MSSA and Pseudomonal bacteremia, dementia, and advanced bladder
   cancer.  Tm 102 in ED, 96% on high flow, RR 25.  Heart is regular but
   distant.  Basilar crackles bilaterally, with some bronchial breath
   sounds right axilla.  Labs, meds, FH, SH, All, ROS reviewed.  CXR shows
   cardiomegaly and convincing opacities in the right mid lung zone and
   left base.
   Assessment and Plan
   [**Age over 90 382**]-year-old man with pneumonia and respiratory distress.  Influenza,
   health-care-associated, and community-acquired pneumonia are all in
   differential.  We will plan
          Cover for MRSA, Pseudomonas, and atypicals
          Influenza DFA and droplet precautions
          Empiric oseltamivir
          Support with oxygen.  If progresses, would likely need to
   move to intubation rather than NIMV given the fact that underlying
   etiology is pneumonia.
   At present, peripheral access is adequate and there is no indication
   for arterial access.
   He is full code, and per family would accept intubation and CVL.
    [**Age over 90 382**] y/o gentleman with a history of Alzheimer's dementia, ESRD on HD
   (M/W/F) and h/o bladder CA presented to [**Hospital1 54**] ED with fever, cough, and
   decreased oral intake.
   .
   # Fever/hypoxia:  Concerning for PNA.  Does not appear to be in heart
   failure.  History and presentation not consistent with PE.
   - r/o Flu swab
   - droplet precautions
   - f/u sputum/BCX
   - continue vanc and tamiflu
   - switch levofloxacin to cefepime given h/o pseudomonas
   - will add azithromycin
   - check urine legionella
   - ABG
   - wean off of nonrebreather
   - send c diff and add oral vanc or flagyl if her developes diarrhea
   .
   # ESRD/HD:
   - apprecieate renal recs
   - renally dose meds
   .
   # HTN:
   - continue metoprolol
   - restart lisinopril/amlodipine/minoxidil in AM if patient is
   hemodynamically stable
   .
   # Alzheimer's Dementia:
   - continue home meds
   .
   # Bladder CA:
   - needs out follow up
   .
   FEN:  Renal diet; replete lytes prn
   .
   He is critically ill: 40 minutes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-2**] 04:07 PM
   20 Gauge - [**2103-12-2**] 08:44 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2103-12-04 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -added olanzepine for agitation
   -added captopril for BP control (still holding some BP meds)
   -had HD, with removal of 2L
   -flu negative --> d/c'ed droplet precautions and tamiflu
   -sent blood gas at around 5 p.m. due to poor waveform on SpO2 probe,
   ended up sending venous blood. respiratory then drew another ABG, which
   was arterial blood.
   -patient agitated at 11:30 p.m. --> gave haldol 0.5 mg IV
   -will need Phoslo with meals when starts eating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2103-12-3**] 06:11 PM
   Cefipime - [**2103-12-3**] 07:30 PM
   Vancomycin - [**2103-12-3**] 08:15 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2103-12-3**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2103-12-4**] 12:12 AM
   Haloperidol (Haldol) - [**2103-12-4**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-12-4**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 90 (77 - 105) bpm
   BP: 163/67(86) {86/42(54) - 165/107(114)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    901 mL
                                                                    498 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    721 mL
                                                                    498 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,099 mL
                                                                    498 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.48/45/121/30/9
   PaO2 / FiO2: 202
   Physical Examination
   GENERAL: Elderly man, confused and somewhat agitated, but in NAD, AOx1
   person only
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. MMM. OP clear. Neck Supple.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. II/VI systolic
   murmur best along left sternal border.
   LUNGS: Crackles bilateral bases.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Spontaneously moves all 4 extremities
   Labs / Radiology
   269 K/uL
   9.9 g/dL
   229 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   31.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2103-12-2**]  06:24 PM
                             [**2103-12-3**]  03:45 AM
                             [**2103-12-3**]  05:27 PM
                             [**2103-12-3**]  05:54 PM
                             [**2103-12-4**]  03:50 AM
   WBC
   12.5
   8.5
   Hct
   34.9
   31.6
   Plt
   266
   269
   Cr
   9.6
   5.4
   TCO2
   34
   36
   34
   Glucose
   65
   229
   Other labs: PT / PTT / INR:13.2/32.8/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 382**] y/o gentleman with a history of Alzheimer's dementia, ESRD on HD
   (M/W/F) and h/o bladder CA presented to [**Hospital1 54**] ED with fever, cough, and
   decreased oral intake with radiographic evidence of multifocal PNA on
   CXR.
   .
   # Multifocal PNA: Based on CXR, clinical presentation with fevers,
   hypoxia, cough, consistent with multifocal PNA.  Clinical picture not
   c/w CHF or PE.
   - Flu Influenza swab, droplet precautions until then
   - f/u sputum and Blood cultures
   - continue Vancomycin, Cefepime, Azithromycin and Tamiflu
   - check urine Legionella if it is possible to collect in this oliguric
   pt.
   - monitor O2 requirements, sats
   - send c diff and add oral vanc or flagyl if her developes diarrhea
   - F/u MRSA screen
   .
   # ESRD/HD:  Pt. scheduled for HD today.  Access is via LUE fistula.
   - appreciate renal recs
   - renally dose meds
   -Check PM K if the patient does not go for HD
   .
   # HTN:  The pt. has remained normotensive /moderately hypertensive.
   - continue metoprolol
   - Hold lisinopril/amlodipine/minoxidil for now given active infectious
   process.  Will re-start if the pt. becomes hypertensive.
   - Re-start short acting antihypertensive for now (Captopril 50mg q8hrs)
   .
   # Agitation/Alzheimer's Dementia:  The pt. agitated, pulling off face
   mask, which causes desats.
   - continue home meds
   -Zydis PRN for agitation for a maximum dose of 20mg daily.
   -EKG shows no QTc prolongation
   .
   # Bladder CA:
   - needs out follow up
   .
   FEN:  Renal diet; replete lytes prn
   .
   PPX:
   -DVT ppx with sc heparin
   -Bowel regimen H2blocker/senna/colace
   .
   ACCESS: PIV
   .
   CODE STATUS: Full Code confirmed with daughter [**Name (NI) 2391**] (HCP)
   .
   EMERGENCY CONTACT:  Daughter, [**First Name4 (NamePattern1) 2391**] [**Known lastname 10720**] h [**Telephone/Fax (1) 10721**], c [**Telephone/Fax (1) 10722**]
   .
   DISPOSITION:  ICU for now
   .
   ICU Care
   ICU Care
   Nutrition: Renal diet; replete lytes PRN
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-2**] 04:07 PM
   20 Gauge - [**2103-12-2**] 08:44 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition:

2103-12-04 09:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Significant respiratory secretions last PM, required frequent
   suctioning.  Much improved this AM.
   FiO2 requirement reduced.
   Somnulant this AM, arrousable to voice.  Aggitated intermittently
   (physically abussive at times), remains confused.  Required Haldol
   overnight with good effect.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2103-12-3**] 06:11 PM
   Cefipime - [**2103-12-3**] 07:30 PM
   Vancomycin - [**2103-12-3**] 08:15 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2103-12-4**] 03:36 AM
   Ranitidine (Prophylaxis) - [**2103-12-4**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2103-12-4**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-12-4**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 85 (79 - 105) bpm
   BP: 124/55(74) {86/42(54) - 165/107(114)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    901 mL
                                                                    615 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    721 mL
                                                                    615 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,099 mL
                                                                    615 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.48/45/121/30/9
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): oriented to person, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   269 K/uL
   229 mg/dL
   5.4 mg/dL
   30 mEq/L
   3.9 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   31.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2103-12-2**]  06:24 PM
                             [**2103-12-3**]  03:45 AM
                             [**2103-12-3**]  05:27 PM
                             [**2103-12-3**]  05:54 PM
                             [**2103-12-4**]  03:50 AM
   WBC
   12.5
   8.5
   Hct
   34.9
   31.6
   Plt
   266
   269
   Cr
   9.6
   5.4
   TCO2
   34
   36
   34
   Glucose
   65
   229
   Other labs: PT / PTT / INR:13.2/32.8/1.1, Lactic Acid:1.2 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR ([**2103-12-4**]) increased infiltrates RML, LLL.  Ovoid opacity
   in RUL region appears extrathoracic shadow.
   Assessment and Plan
   [**Age over 90 382**] yom Dementia, CRF, now with pneumonia.
   RESPIRATORY DISTRESS
 Much improved.  Attributed to lung infection,
   likely bacterial.  No evidence for influenza.  Continue supplemental
   oxygen and antimicrobials.  Monitor RR, SaO2, maintain >90%.
   PULMONARY INFILTRATES -- evolving.  Attributed to lung infection,
   multilobar.  Continue empirical antimicrobials.
   FLUIDS
 hypovolemia.  Ressussitate.  Monitor I/O.
   RENAL FAILURE
 continue hemodialysis as scheduled.
   HTN -- continue metoprolol.  Restart lisinopril/amlodipine/minoxidil in
   AM if patient is hemodynamically stable
   NUTRITIONAL SUPPORT -- encourage PO, with suppliments.  Consider TF
   (enteroflex feeding tube).
   ALZHEIMERS DEMENTIA
 need to confirm mental status is at baseline.
   Haldol for aggitation.
   CODE -- Full code, and per family would accept intubation and central
   line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-2**] 04:07 PM
   20 Gauge - [**2103-12-2**] 08:44 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill